US05753673
To a solution of 16.2 ml of 2,5-dimethoxytetrahydrofuran in 50 ml of water was added 6 ml of conc. hydrochloric acid. The mixture was stirred at room temperature for 20 minutes. Thereafter, 150 ml of water, 25 ml of 1-(2-aminoethyl)morpholine, 20 ml of conc. hydrochloric acid and 20.1 g of 1,3-acetonedicarboxylic acid were successively added to the reaction mixture. Furthermore, a solution of 8.8 g of Na2HPO4 and 2.5 g of sodium hydroxide in 100 ml of water was added to the mixture. Thereafter the pH was adjusted to the range of 2 to 3. After stirring overnight at room temperature, the reaction solution was washed with chloroform. Potassium carbonate was added to the mixture to render alkaline, followed by extraction with chloroform. The organic layer was washed with water and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was purified by silica gel column chromatography (chloroform:NH3 -saturated methanol=20:1) to give 26.7 g of 8-(2-morpholinoethyl)-8-azabicyclo[3.2.1]octan-3-one.

reactant | 2,5-dimethoxytetrahydrofuran | 16.2 ml | COC1OC(CC1)OC | C6H12O3
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | 1-(2-aminoethyl)morpholine | 25 ml | C1COCCN1CCN | C6H14N2O
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | 1,3-acetonedicarboxylic acid | 20.1 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 8-(2-morpholinoethyl)-8-azabicyclo[3.2.1]octan-3-one | 26.7 g | O1CCN(CC1)CCN1C2CC(CC1CC2)=O | C13H22N2O2
